US06258824B1
16C. [4-(3,5-Dichloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol
Following the same procedure as described in example 1E, 6-bromo-4-(3,5-dichloro-phenyl)-2-methoxy-quinoline (1.88 g, 4.91 mmol) and (6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanone (0.94 g, 4.27 mmol) generated the title compound of 16C as a yellow solid (0.885 g, 39.5% yield).

reactant | 6-bromo-4-(3,5-dichloro-phenyl)-2-methoxy-quinoline | 4.91 mmol, 1.88 g | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC(=C1)Cl)Cl | C16H10BrCl2NO
reactant | (6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanone | 4.27 mmol, 0.94 g | ClC1=CC=C(C=N1)C(=O)C=1N(C=NC1)C | C10H8ClN3O
product | [4-(3,5-Dichloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 0.885 g, 39.5% yield | ClC=1C=C(C=C(C1)Cl)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl)OC | C26H19Cl3N4O2
